US09102623B2
5-Chloro-2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxamide
At room temperature, 0.39 g (2.9 mmol) of sulfuryl chloride was added to 300 mg (1.46 mmol) of 2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxamide in 5 ml of 1,2-dichloroethane and 2.3 g (0.25 ml) of pyridine, and the mixture was then heated under reflux for 2 h. The mixture was then added to 0.5N hydrochloric acid. The organic phase was removed and then dried and concentrated, which gave 144 mg (41% of theory) of a brownish powder.

reactant | sulfuryl chloride | 2.9 mmol, 0.39 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxamide | 1.46 mmol, 300 mg | O=C1NC(=CC=C1C(=O)N)C(F)(F)F | C7H5F3N2O2
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | pyridine | 0.25 ml, 2.3 g | N1=CC=CC=C1 | C5H5N
product | 5-Chloro-2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxamide | ClC=1C=C(C(NC1C(F)(F)F)=O)C(=O)N | C7H4ClF3N2O2
